### PR TITLE
Add definition of finite sets

### PR DESCRIPTION
**Pull request by jorge-jbs**
For now it is very incomplete, since I need some results about `Fin`.

Is `FinSet` okay in `Cubical.Foundations`?

### CODE REVIEW

File: Cubical/Foundations/FinSet.agda [hunk 1]
```diff
@@ -0,0 +1,43 @@
...
+open import Cubical.Foundations.Isomorphism
+open import Cubical.Foundations.Univalence
+open import Cubical.Foundations.Equiv
+open import Cubical.HITs.PropositionalTruncation
+open import Cubical.Data.Unit
+open import Cubical.Data.Nat
+open import Cubical.Data.Fin
+
+isFinSet : Type₀ → Type₁
+isFinSet A = ∥ Σ[ n ∈ ℕ ] A ≡ Fin n ∥
```
Comment (WorldSEnder) [inline Cubical/Foundations/FinSet.agda:18]: Could use `isFinSet A = Σ[ n ∈ ℕ ] ∥ A ≃ Fin n ∥` here, which would be stronger and more universe-polymorphic.

Comment (martinescardo) [reply Cubical/Foundations/FinSet.agda:18]: There are two suggestions here: (1) To replace equality by equivalence (this makes the definition more universe polymorphic) and (2) to move the truncation inside the Sigma (this would make the definition stronger). But actually, regarding (2), you can prove that the definitions with truncation inside and outside are equivalent, because if `Fin n` and `Fin n'` are equivalent, then `n` and `n'` are equal, and because the natural numbers form a set.

Comment (mortberg) [reply Cubical/Foundations/FinSet.agda:18]: I agree with Martín, please use `isFinSet A = ∥ Σ[ n ∈ ℕ ] A ≃ Fin n ∥`. There is a nice notation for this in https://github.com/agda/cubical/blob/master/Cubical/Data/Sigma/Base.agda#L29

This will make it trivial to prove that the property of being finite is a proposition. You should then prove that you can obtain the version that @WorldSEnder suggested

**Comment by mortberg** [comment]
> Is `FinSet` okay in `Cubical.Foundations`?

Please put it in `Cubical.Data`.

**Comment by jorge-jbs** [comment]
I think I solved the comments you mentioned. I added some theorems to `Fin` so comments on that module would also be appreciated.

File: Cubical/Data/Fin/Properties.agda [hunk 2]
```diff
@@ -41,6 +46,22 @@ isContrFin1
...
 
+discreteFin : ∀ {n} → Discrete (Fin n)
+discreteFin {n} (x , hx) (y , hy) with discreteℕ x y
+... | yes prf = yes (Σ≡Prop (λ _ → m≤n-isProp) prf)
+... | no prf = no (λ h → prf (
+    x ≡⟨ refl ⟩
+    fst {B = _< n} (x , hx) ≡⟨ cong fst h ⟩
+    fst {B = _< n} (y , hy) ≡⟨ refl ⟩
+    y ∎
+  ))
```
Comment (mortberg) [inline Cubical/Data/Fin/Properties.agda:57]: Am I missing something or isn't this proof just `cong fst h`?

File: Cubical/Data/Fin/Base.agda [hunk 3]
```diff
@@ -69,3 +72,24 @@ elim P fz fs {suc k} fj
...
+      { (inl P0) → fzero , P0
+      ; (inr (x , Px)) → fsuc x , Px
+      }
+    )
+    (λ n h → n (helper h))
+    (P? fzero ⊎? any? (P? ∘ fsuc))
+  where
+    helper
+      : Σ (Fin (suc n)) P
+      → (P fzero ⊎ Σ (Fin n) (λ z → P (fsuc z)))
```
Comment (mortberg) [inline Cubical/Data/Fin/Base.agda:92]: You don't need parentheses around the conclusion. Also, why not put the type on one line? Same applies to the toplevel type.

File: Cubical/Data/FinSet.agda [hunk 4]
```diff
@@ -0,0 +1,110 @@
...
+FinSet : Type (ℓ-suc ℓ)
+FinSet = TypeWithStr _ isFinSet
+
+isFinSetFin : ∀ {n} → isFinSet (Fin n)
+isFinSetFin = ∣ _ , pathToEquiv refl ∣
+
+isFinSetUnit : isFinSet Unit
+isFinSetUnit = ∣ 1 , Unit≃Fin1 ∣
+  where
+    Unit≃Fin1 : Unit ≃ Fin 1
```
Comment (mortberg) [inline Cubical/Data/FinSet.agda:38]: Maybe this equivalence should be upstreamed? I can imagine it being useful elsewhere

File: Cubical/Data/FinSet.agda [hunk 5]
```diff
@@ -0,0 +1,110 @@
...
+      isoToEquiv
+        (iso
+          (const fzero)
+          (const tt)
+          (isContrFin1 .snd)
+          (isContrUnit .snd)
+        )
+
+isFinSet′ : Type ℓ → Type ℓ
+isFinSet′ A = Σ[ n ∈ ℕ ] ∥ A ≃ Fin n ∥
```
Comment (mortberg) [inline Cubical/Data/FinSet.agda:49]: How about renaming this to something more informative, like `isFinSetΣ`?

File: Cubical/Data/FinSet.agda [hunk 6]
```diff
@@ -0,0 +1,110 @@
...
+    Fin-n≡Fin-m = rec propTruncIsProp (∣_∣ ∘ ua) Fin-n≃Fin-m
+
+    ∥n≡m∥ : ∥ n ≡ m ∥
+    ∥n≡m∥ = rec propTruncIsProp (∣_∣ ∘ Fin-inj n m) Fin-n≡Fin-m
+
+    n≡m : n ≡ m
+    n≡m = rec (isSetℕ n m) (λ p → p) ∥n≡m∥
+
+isFinSet≡isFinSet′ : isFinSet A ≡ isFinSet′ A
+isFinSet≡isFinSet′ {A = A} = ua (isoToEquiv (iso to from to-from from-to))
```
Comment (mortberg) [inline Cubical/Data/FinSet.agda:78]: You can use https://github.com/agda/cubical/blob/master/Cubical/Foundations/Univalence.agda#L42 here

**Comment by mortberg** [comment]
PS: can you please also add some headers to the files explaining what they contain?

File: Cubical/Data/FinSet.agda (hunk 4 above)
Comment (jorge-jbs) [reply Cubical/Data/FinSet.agda:38]: `FinSet` depends on `Fin` and `Fin` depends on `Unit`. So if I import `FinSet` from `Unit` I get a cycle.

Comment (jorge-jbs) [reply Cubical/Data/FinSet.agda:38]: Oh, I misunderstood. You only meant the equivalence. But I have tried to only move the equivalence and I still get a cycle, although a less obvious one: `Unit -> Fin -> Nat.Order -> ... -> Unit`.

Comment (mortberg) [reply Cubical/Data/FinSet.agda:38]: Right, I just meant the equivalence. Can't you put it in Fin?

Comment (jorge-jbs) [reply Cubical/Data/FinSet.agda:38]: That works

Comment (mortberg) [reply Cubical/Data/FinSet.agda]: Perfect! That seems like a reasonable place to put it

**Comment by jorge-jbs** [comment]
I think everything's done. Thanks for the comments!

**Comment by mortberg** [comment]
Great! Thank you for the contribution
